### ISSUE TITLE
Instance synthesis fails with a match expression

### ISSUE THREAD

**Issue by lzy0505** [larsk21/iris-lean#145]
```
/-- error: (match ?b with
  | true => ?Q
  | false => ?Q) ⊢
  ?Q is not an entailment -/
#guard_msgs in
example [BI PROP] (Q : PROP) : Q ⊢ Q := by
  iintro HQ
  have H: (∀ b (Q: PROP), (match b with | true => iprop(Q) | false => iprop(Q)) ⊢ Q) := by sorry
  iapply H
```

This example failed at `iapply H`. 
But the `iapply` works if I replace the match expression with `(if b == true then iprop(Q) else iprop(Q))`.

The problem seems to be at this line: 
https://github.com/leanprover-community/iris-lean/blob/1bed579a41e3306ff77d90367dfaae511eb8d59f/src/Iris/ProofMode/SynthInstance.lean#L86

Is this an upstream bug?

cc @MackieLoeffel

**Comment by btj-h** [comment]
I bumped into this as well. I created an upstream issue.

**Comment by MackieLoeffel** [comment]
Closed via #594
